US08455479B2
To a solution of (2-amino-4,5-difluoro-phenyl)-methanol (4.50 g, 28.30 mmol) in 1,4-dioxane and Water (1:1, 50 mL) was added NaHCO3 (4.7 g, 56.60 mmol) at 0° C. To the resulting solution, was added di-tert-butyl dicarbonate (9.7 mL, 42.45 mmol). The reaction was stirred at r.t. for 10 h. After completion of the reaction, as confirmed by TLC, 1,4-dioxane was removed in vacuo and crude compound was extracted with EtOAc (3×50 mL). The combined organic layers were dried over Na2SO4 and the solvents were removed in vacuo to afford the crude compound, which was purified by column chromatography (silica gel, 1:9 EtOAc:Pet. Ether) to afford pure (4,5-difluoro-2-hydroxymethyl-phenyl)-carbamic-acid tert-butyl ester (5.86 g, 80%) as a thick gel.

reactant | (2-amino-4,5-difluoro-phenyl)-methanol | 28.30 mmol, 4.50 g | NC1=C(C=C(C(=C1)F)F)CO | C7H7F2NO
reactant | NaHCO3 | 56.60 mmol, 4.7 g | C(=O)(O)[O-].[Na+]
reactant | di-tert-butyl dicarbonate | 42.45 mmol, 9.7 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | Water | 50 mL | O | H2O
product | (4,5-difluoro-2-hydroxymethyl-phenyl)-carbamic-acid tert-butyl ester | 5.86 g, 80% | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)F)F)CO)=O | C12H15F2NO3
